US08440705B2
Preparation of 4-Phenyl-1H-benzo[h]quinolin-2-one
A mixture of 4-Phenyl-3,4-dihydro-1H-benzo[h]quinolin-2-one (0.55 g, 2.0 mmol) and sulfur (0.06 g, 2 mmol) was stirred at 205° C. for 0.5 hr under a nitrogen atmosphere. A second batch of sulfur (0.06 g, 2 mmol) was added and the solution stirred for 12 hr at 205° C. The product was dissolved in hot acetic acid and filtered. The clear filtrate upon cooling deposited crystals that were separated by filtration and washed with acetic acid and water followed by vacuum drying to afford the title compound (0.08 g, 0.30 mmol).

reactant | 4-Phenyl-3,4-dihydro-1H-benzo[h]quinolin-2-one | 2.0 mmol, 0.55 g | C1(=CC=CC=C1)C1CC(NC2=C3C(=CC=C12)C=CC=C3)=O | C19H15NO
reactant | sulfur | 2 mmol, 0.06 g | [S] | S
reactant | sulfur | 2 mmol, 0.06 g | [S] | S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Phenyl-1H-benzo[h]quinolin-2-one | 0.30 mmol, 0.08 g | C1(=CC=CC=C1)C1=CC(NC2=C3C(=CC=C12)C=CC=C3)=O | C19H13NO
